US05686449
N-Adamantan-1-yl-2-nitro-phenylamine
A mixture of 2-chloronitrobenzene (10 g), potassium carbonate (17.5 g) copper (I) iodide (609 mg) and 1-adamantanamine (19.2 g) was heated at 180° under nitrogen for 6 h. The mixture was allowed to cool to room temperature and was adsorbed onto silica. This was chromatographed with hexane-EA (9:1) as eluent to give the title compound (10.86 g) as an orange/brown crystalline solid containing 29% 2-chloronitrobenzene. T.l.c. (99:1 hexane-EA) Rf 0.23

reactant | 2-chloronitrobenzene | 10 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | potassium carbonate | 17.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-adamantanamine | 19.2 g | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
product | N-Adamantan-1-yl-2-nitro-phenylamine | 10.86 g | C12(CC3CC(CC(C1)C3)C2)NC2=C(C=CC=C2)[N+](=O)[O-] | C16H20N2O2
